US08278319B2
Step-11: 3-Azaspiro[5.5]undecan-9-one Hydrochloride
To 3-tert-butyl 8-methyl 9-oxo-3-azaspiro[5.5]undecane-3,8-dicarboxylate (450 mg, 1.38 mmol) was added HCl—H2O (5 ml, 1:1) at 0° C. and the mixture was refluxed overnight. LCMS revealed complete consumption of the starting material and the mixture was concentrated to dryness. The crude product thus obtained was used directly in next step.

reactant | 3-tert-butyl 8-methyl 9-oxo-3-azaspiro[5.5]undecane-3,8-dicarboxylate | 1.38 mmol, 450 mg | O=C1C(CC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C(=O)OC | C17H27NO5
reactant | HCl—H2O | 5 ml | Cl.O
product | 3-Azaspiro[5.5]undecan-9-one Hydrochloride | Cl.C1CNCCC12CCC(CC2)=O | InChI=1S/C10H17NO.ClH/c12-9-1-3-10(4-2-9)5-7-11-8-6-10;/h11H,1-8H2;1H
